US04018802
A solution of diazomethane (approximately 2.5 g., 0.06 mole) in ether (100 ml.) is mixed with a solution of 8-methylsulfonyl-12-hydroxyheptadecanoic acid (10.8 g., 0.03 mole) in ether (50 ml.). The resulting solution is allowed to stand 4 hours at room temperature. Acetic acid is then added to destroy the excess diazomethane and the solution is washed with dilute sodium bicarbonate solution and water and dried over sodium sulfate. Evaporation of volatile materials at reduced pressure yields methyl 8-methylsulfonyl-12-hydroxyheptadecanoate, a colorless viscous oil.

reactant | diazomethane | 0.06 mole, approximately 2.5 g | [N+](=[N-])=C | CH2N2
reactant | 8-methylsulfonyl-12-hydroxyheptadecanoic acid | 0.03 mole, 10.8 g | CS(=O)(=O)C(CCCCCCC(=O)O)CCCC(CCCCC)O | C18H36O5S
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | methyl 8-methylsulfonyl-12-hydroxyheptadecanoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CCCC(CCCCC)O | C19H38O5S
